### PR TITLE
Ring properties of cup product

### PR DESCRIPTION
**Pull request by aljungstrom**
This PR contains

- Associativity, unit laws and finished distributivity proofs for the gernalised cup product `K(G,n) × K(H,m) → K(G⊗H,n+m)`. This stuff used to be in `Algebra.Group.EilenbergMacLane.CupProduct.agda` but has been moved to `Algebra.Group.EilenbergMacLane.CupProductTensor.agda`. Unfortunately, Github thinks all the code is new, but the relevant lines are (apart from some minor changes): 245-321 and 621-
- Introduction of the standard cup product over a ring `K(G,n) × K(G,m) → K(G,n+m)` the ring laws for a general ring - not necessarily a commutative one (graded commutativity will have to wait a bit). This stuff is now in `Algebra.Group.EilenbergMacLane.CupProduct.agda`. (This will be the relevant stuff for @thomas-lamiaux)
- A bunch of other lemmas, all relating to the above in one way or another.

### CODE REVIEW

**Comment by thomas-lamiaux** [comment]
I was looking at it to define the general cohomology ring. 
It is a bit of a mess to have that in Algebra.
Should this be put in a way or another in a reorganise (and rename) ZCohomology folder ?

**Comment by thomas-lamiaux** [comment]
Btw, I think that the file with 1500 lines could gain clarity from a (small) header explaining why an operation with tensor is needed to compute the cup product and what is done in the file. Yes it is packed in module, but there is 1500 lines...

File: Cubical/Algebra/Group/EilenbergMacLane/Base.agda [hunk 1]
```diff
@@ -91,3 +90,52 @@ elim : {G : AbGroup ℓ} (n : ℕ) {A : EM G n → Type ℓ'}
...
+
+elim2 : ∀ {ℓ''}{G : AbGroup ℓ} {H : AbGroup ℓ'} (n : ℕ) {A : EM G n → EM H n → Type ℓ''}
+        → ((x : _) (y : _) → isOfHLevel (2 + n) (A x y))
+        → ((x : EM-raw G n) (y : EM-raw H n) → A (EM-raw→EM G n x) (EM-raw→EM H n y))
+        → (x : _) (y : _) → A x y
+elim2 n hlev ind =
+  elim n (λ _ → isOfHLevelΠ (2 + n) (λ _ → hlev _ _))
+    λ x → elim n (λ _ → hlev _ _) (ind x)
+
+EM-rawer : ∀ {ℓ} (G : AbGroup ℓ) (n : ℕ) → Type ℓ
```
Comment (mortberg) [inline Cubical/Algebra/Group/EilenbergMacLane/Base.agda:102]: This name is not very informative. Also why not put level at the top of the file?

File: Cubical/Algebra/Group/EilenbergMacLane/CupProductTensor.agda [hunk 2]
```diff
@@ -0,0 +1,1593 @@
...
+
+open AbGroupStr renaming (_+_ to _+Gr_ ; -_ to -Gr_)
+
+open PlusBis
+
+private
+  variable
+    ℓ ℓ' ℓ'' : Level
+
++'-suc : (n m : ℕ) → suc (n +' m) ≡ suc n +' m
```
Comment (mortberg) [inline Cubical/Algebra/Group/EilenbergMacLane/CupProductTensor.agda:49]: Should this really be here?

File: Cubical/Algebra/Group/EilenbergMacLane/CupProductTensor.agda [hunk 3]
```diff
@@ -0,0 +1,1593 @@
...
++'-suc zero (suc m) = refl
++'-suc (suc n) zero = refl
++'-suc (suc n) (suc m) = refl
+
+-- Lemma for distributativity of cup product (used later)
+pathType : {G : AbGroup ℓ} (n : ℕ) (x : EM G (2 + n)) (p : 0ₖ (2 + n) ≡ x) → Type ℓ
+pathType n x p = sym (rUnitₖ (2 + n) x) ∙ (λ i → x +ₖ p i)
+               ≡ sym (lUnitₖ (2 + n) x) ∙ λ i → p i +ₖ x
+
+pathTypeMake : {G : AbGroup ℓ} (n : ℕ) (x : EM G (2 + n)) (p : 0ₖ (2 + n) ≡ x)
```
Comment (mortberg) [inline Cubical/Algebra/Group/EilenbergMacLane/CupProductTensor.agda:60]: Same about this

File: Cubical/Foundations/HLevels.agda [hunk 4]
```diff
@@ -486,6 +487,12 @@ isOfHLevelΠ⁻ 1 h x y z = funExt⁻ (h (const y) (const z)) x
 isOfHLevelΠ⁻ (suc (suc n)) h x y z =
   isOfHLevelΠ⁻ (suc n) (isOfHLevelRetractFromIso (suc n) funExtIso (h _ _)) x
 
+isOfHLevel→∙ : ∀ {ℓ ℓ'} {A : Pointed ℓ} {B : Pointed ℓ'} (n : ℕ)
```
Comment (mortberg) [inline Cubical/Foundations/HLevels.agda:490]: Levels are already parametrized in the list of variables

File: Cubical/HITs/EilenbergMacLane1/Properties.agda [hunk 5]
```diff
@@ -80,6 +80,13 @@ module _ ((G , str) : Group ℓG) where
     where
       g = elimSet Bset b bloop
 
+  elimSet' : {B : EM₁ (G , str) → Type ℓ}
```
Comment (mortberg) [inline Cubical/HITs/EilenbergMacLane1/Properties.agda:83]: Shouldn't the be called something with raw-EM1?

**Review by mortberg — CHANGES_REQUESTED** [review]
Great stuff! But should the EM stuff really be in Algebra.Group?

File: Cubical/Algebra/Group/EilenbergMacLane/Base.agda (hunk 1 above)
Comment (aljungstrom) [reply Cubical/Algebra/Group/EilenbergMacLane/Base.agda:102]: It became EM-raw'... I guess at least it shows its just a version of EM-raw. Can't come up with anything better...

**Comment by aljungstrom** [comment]
> @mortberg @aljungstrom Before merging, should we look were to put this ? Because, the Eilengerb-MacLane up to G (so this) is in group, but the same stuff for G = Z is in ZCohomology/RingStructure ? If we want to compute G-cohomology were should we do that ?

I'll put this in Homotopy, because Eilenberg-MacLane spaces do have more applications than just cohomology. Then I'll make an Eilenberg-MacLane folder in Cohomology for the corresponding cohomology theory (as opposed to the stuff that's there now)

File: Cubical/Algebra/Group/EilenbergMacLane/Properties.agda [hunk 6]
```diff
@@ -828,41 +828,38 @@ Iso.leftInv (inducedFun-EM-rawIso e n) = h n
...
+  Iso→EMIso∙ e (suc (suc n)) = refl
+
+  Iso→EMIso⁻∙ : (e : AbGroupEquiv G H)
+    → ∀ n
+    → Iso.inv (Iso→EMIso e n) (EM∙ H n .snd) ≡ EM∙ G n .snd
+  Iso→EMIso⁻∙ e zero = IsGroupHom.pres1 (invGroupEquiv e .snd)
+  Iso→EMIso⁻∙ e (suc zero) = refl
+  Iso→EMIso⁻∙ e (suc (suc n)) = refl
+
+Iso→EMIsoInv : {G : AbGroup ℓ} {H : AbGroup ℓ'} (e : AbGroupEquiv G H)
```
Comment (mortberg) [inline Cubical/Algebra/Group/EilenbergMacLane/Properties.agda:862]: This can be indented as well? And why not put e in the module as well?

Comment (aljungstrom) [reply Cubical/Algebra/Group/EilenbergMacLane/Properties.agda:862]: This can't be indented, because because invGroupEquiv e is an equivalence from H to G, and not G to H. But I can put e in the module, that's for sure.

Comment (mortberg) [reply Cubical/Algebra/Group/EilenbergMacLane/Properties.agda:858]: Oops

**Review by mortberg — APPROVED** [review]
